US04244961
A mixture of 2-(1-carbobenzyloxy-4-hydroxypiperidin-4-yl)-2-methylpropionic acid, 1.29 g diphenylphosphoryl azide, 0.47 g of triethylamine, and 50 ml toluene is heated at reflux for 18 hours. Evaporation of solvent gives a residue which is taken up in 125 ml dichloromethane and is washed with 50 ml 1 N hydrochloric acid and 50 ml, 5% sodium bicarbonate. Evaporation of the solvent followed by trituration with diethyl ether affords 1.86 g 4,4-dimethyl-8-carbobenzyloxy-1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 208°-209°.

reactant | 2-(1-carbobenzyloxy-4-hydroxypiperidin-4-yl)-2-methylpropionic acid | C(=O)(OCC1=CC=CC=C1)N1CCC(CC1)(O)C(C(=O)O)(C)C | C17H23NO5
reactant | diphenylphosphoryl azide | 1.29 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.47 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
product | 4,4-dimethyl-8-carbobenzyloxy-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 1.86 g | CC1(NC(OC12CCN(CC2)C(=O)OCC2=CC=CC=C2)=O)C | C17H22N2O4
